US07396844B1
Synthesis of 3-[3-aminobenzyloxy]benzonitrile
2.32 g (9.12 mmol) of 3-[3-nitrobenzyloxy]benzonitrile and 4.38 g of zinc were suspended in 50 ml of acetic acid, and the obtained suspension was stirred at 45° C. for 4 hours. The insoluble matter was filtered out, and the filtrate was evaporated. 100 ml of chloroform and 50 ml of 1 N aqueous sodium hydroxide solution were added to the residue. After the separation of the liquids followed by the treatment by an ordinary method, the title compound was obtained.

reactant | 3-[3-nitrobenzyloxy]benzonitrile | 9.12 mmol, 2.32 g | [N+](=O)([O-])C=1C=C(COC=2C=C(C#N)C=CC2)C=CC1 | C14H10N2O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 4.38 g | [Zn] | Zn
product | 3-[3-aminobenzyloxy]benzonitrile | NC=1C=C(COC=2C=C(C#N)C=CC2)C=CC1 | C14H12N2O
